US05539083
1-(Chlorocarbonylmethyl)-N4 -(benzyloxycarbonyl)cytosine
Oxalyl chloride (6.3 g, 50 mmol) is added dropwise over 5 minutes to a solution of 1-(carboxymethyl)-N4 -(benzyloxycarbonyl)cytosine (15.3 g, 50 mmol) dissolved in dichloromethane (200 mL). The reaction is stirred until gas evolution has ceased and then for an additional 2 hours. The reaction mixture is evaporated to an oil.

reactant | Oxalyl chloride | 50 mmol, 6.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(carboxymethyl)-N4 -(benzyloxycarbonyl)cytosine | 50 mmol, 15.3 g | C(=O)(O)CN1C(=O)N=C(NC(=O)OCC2=CC=CC=C2)C=C1 | C14H13N3O5
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 1-(Chlorocarbonylmethyl)-N4 -(benzyloxycarbonyl)cytosine | ClC(=O)CN1C(=O)N=C(NC(=O)OCC2=CC=CC=C2)C=C1 | C14H12ClN3O4
